US04000303
EXAMPLE 1 1-(dichlorofluoromethylthio)-3-(3'-chloro-4'-methylphenyl)-imidazolidine-2,4-dione (Compound No. 1).
23.8 g of fluorodichloromethanesulphenyl chloride in 100 ml of acetic acid ethyl ester is added dropwise within 20 minutes at -10° C, with vigorous stirring, to a suspension of 22.5 g of 3-(3'-chloro-4'-methylphenyl)-imidazolidine-2,4-dione in 400 ml of acetic acid ethyl ester, and after one hour there is also added dropwise, at 0° C in the course of 10 minutes, 14.2 g of triethylamine in 100 ml of acetic acid ethyl ester; the cooling bath is subsequently removed and stirring is continued for 3 hours at room temperature. The triethylamine hydrochloride that has precipitated is filtered off and then washed with 100 ml of acetic acid ethyl ester; the solvent is evaporated off in vacuo to obtain, after recrystallisation in methanol, Compound No. 1 which melts at 166° - 167° C.

reactant | fluorodichloromethanesulphenyl chloride | 23.8 g | FC(SCl)(Cl)Cl | CCl3FS
reactant | 3-(3'-chloro-4'-methylphenyl)-imidazolidine-2,4-dione | 22.5 g | ClC=1C=C(C=CC1C)N1C(NCC1=O)=O | C10H9ClN2O2
reactant | triethylamine | 14.2 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid ethyl ester | 400 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
product | 1-(dichlorofluoromethylthio)-3-(3'-chloro-4'-methylphenyl)-imidazolidine-2,4-dione | ClC(SN1C(N(C(C1)=O)C1=CC(=C(C=C1)C)Cl)=O)(F)Cl | C11H8Cl3FN2O2S
